Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dark sticky stools
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy
 
History of Present Illness:
Mr. ___ is an ___ y/o male w/ medical history significant for 
traumatic brain injury without significant deficits transferred 
from an OSH for GI bleeding causing significant drop in 
hemoglobin and hematocrit.  Pt developed dark blood stools last 
week, and on ___ had straight dark blood without stool 
in toilet.  Felt lightheaded and dyspneic, wife noted he was 
breathing labored, and he fell to the floor without hitting his 
head.  Was taken to ___ where he was 
admitted from ___.  His admission Hb was 11.7 on ___ and 
dropped to 9.4 on ___.  He was given protonix and taken off 
aspirin.  Did not have further bleeding during that 
hospitalization and so was sent home on ___ to follow 
up with GI as outpatient. He had no further episodes of dark 
bloody stools until yesterday morning (___), which he 
describes as sticky, tarry, very dark and with a foul odor.  His 
wife went to their PCP this morning on ___ who requested he 
return to ___.  In the ED there he was hemodynamically 
stable and had Hb of 9.3 at 10am this morning.  He was given 40 
mg IV protonix and transfer to ___ was requested.

On admission in the ED, his VS were T 98.0, HR 64, BP 127/55, RR 
20, SpO2 97% on room air.  He was given IV pantoprazole 40 mg 
and 1000 ml NS.  Hb/ Hct here was ___.  He was admitted for 
endoscopy to the floor.  

On interview on the floor, pt reports some cramping pain in the 
lower abdomen, no epigastric pain, positive lightheadedness when 
standing, no shortness of breath at rest but some SOB with 
walking.  Denies chest pain, chest tightness, palpitations, 
nausea, vomiting, fevers or chills.  Last bowel movement was 
this morning at 8am.  He states that he was taking 1 aleve a day 
due to bursitis, taking this at night x ___ year. Stopped on 
___, also stopped taking aspirin on ___. 
 
Past Medical History:
- mechanical fall in ___ resulting in traumatic brain injury, 
requiring ventilation and tube feeding for 3.5 weeks, per pt and 
wife no residual deficits except for subjective right sided 
weakness.  
- on prophylactic seizure medication with keppra due to TBI, 
with no reported history of seizure.
- CVA ___ yeasr ago which he thinks was due to untreated lyme 
disease.  Resulted in right sided weakness which resolved. 
- left inguinal hernia repair
- feeding tube placement and removal (see above)
- sebacouse tumor removal
- several removals of basal cell carcinomas
- left shoulder bursitis
- no hx heart disease
- no hx ulcer disease
 
Social History:
___
Family History:
- mother with CVA died in ___
- dad died in mid ___ of unknown causes
- sister died of lung cancer, was a smoker

 
Physical Exam:
GEN:  elderly male, NAD, resting in bed
HEENT:  PERRL, EOMI, no scleral icterus
CV:  RRR, ___ systolic murmur heard best over LLSB, no elevated 
JVD.  Dorsal pedal, radial pulses 2+ b/l.  
PULM:  CTAB, slight increased work of breathing sitting up
ABD:  soft, nondistended, nontender to palpation, active bowel 
sounds.  
EXT:  warm, well perfused, no pitting edema
NEURO:  A, O x 3, CN ___ in tact, ___ strength in UE, ___ b/l 
with slight decrease on R, no focal neuro deficits
SKIN: no rashes, lesioons.   evidence of several skin surgeries 
on head, torso
PSYCH:  appropriate
ReCTAL:  deferred.  NO evidence of stool on pad. 

Exam on discharge:
Vitals: 98.2 BP: 114/64 HR:72 R: 20 O2: 98%RA
Gen: NAD, sitting in chair
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
Cardiovasc: RRR S1S2 present
Resp: Clear B/L on auscultation
GI: soft, NT, ND, BS+
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: pleasant and conversant
 
Pertinent Results:
ECG:  NSR, no axid deviation, incomplete RBBB, TWI in III (also 
present in OSH ECG from ___ earlier today), flattened in aVF 
(not flat in this morning's OSH ECG).  
___ 06:15PM   WBC-8.0 RBC-2.47* HGB-7.5* HCT-22.9* MCV-93 
MCH-30.4 MCHC-32.8 RDW-14.8 RDWSD-49.7*
___ 06:15PM   PLT COUNT-184
___ 12:50PM URINE  HOURS-RANDOM
___ 12:50PM URINE  HOURS-RANDOM
___ 12:50PM URINE  UHOLD-HOLD
___ 12:50PM URINE  GR HOLD-HOLD
___ 12:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 12:37PM   ___ COMMENTS-GREEN TOP
___ 12:37PM   LACTATE-1.0
___ 12:30PM   GLUCOSE-90 UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-26 ANION GAP-11
___ 12:30PM   estGFR-Using this
___ 12:30PM   ALT(SGPT)-16 AST(SGOT)-29 ALK PHOS-53 TOT 
BILI-0.2
___ 12:30PM   LIPASE-44
___ 12:30PM   cTropnT-<0.01
___ 12:30PM   ALBUMIN-3.2*
___ 12:30PM   WBC-8.1 RBC-2.69* HGB-8.1* HCT-25.2* MCV-94 
MCH-30.1 MCHC-32.1 RDW-14.7 RDWSD-49.7*
___ 12:30PM   NEUTS-70.9 ___ MONOS-7.5 EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-5.74 AbsLymp-1.58 AbsMono-0.61 
AbsEos-0.10 AbsBaso-0.03
___ 12:30PM   PLT COUNT-204
___ 12:30PM   ___ PTT-26.8 ___

Labs on Discharge:
___ 06:50AM BLOOD WBC-8.2 RBC-3.28* Hgb-9.9* Hct-31.0* 
MCV-95 MCH-30.2 MCHC-31.9* RDW-14.9 RDWSD-51.1* Plt ___
___ 06:50AM BLOOD Glucose-92 UreaN-11 Creat-0.9 Na-142 
K-4.0 Cl-107 HCO3-27 AnGap-___ y/o male with ___ medical history presenting with 
likely upper GI bleed with significant drop in Hb/ Hct over past 
5 days.

#Gastrointestinal bleeding:  
#Acute blood loss anemia:
The patient was taking 1 aleve a day due to bursitis, taking 
this at night x ___ year.  No other history of peptic ulcer 
disease or risk factors. The patient underwent an upper GI 
endoscopy which did not show a source of bleeding. He was then 
prepped for a colonoscopy. Colonoscopy showed diverticulosis but 
no signs of active bleeding. It was thought the patient may have 
had upper GI bleeding which improved with PPI started prior to 
admission. The patient's hemoglobin dropped from 11.7 on ___ 
to 8.1 on admission. He was given two units of PRBCs and H/H 
remained stable. His bleeding stopped, and his diet was 
advanced. Consider sending stool for H. pylori as an outpatient. 


#History of TBI
- continued home keppra

#Hyperlipidemia
- continued home atorvastatin

Transitional issues:
- Consider testing stool for hyplori

CONTACT:  wife ___:  ___
FULL CODE, confirmed with patient and wife today.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 750 mg PO BID 
2. Atorvastatin 10 mg PO QPM 
3. Omeprazole 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. LevETIRAcetam 750 mg PO BID 
3. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
4. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastrointestinal bleeding
Acute blood loss anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with gastrointestinal 
bleeding. You had an endoscopy and colonoscopy which did not 
show a source of bleeding. You were given a blood transfusion on 
admission and your blood counts remained stable. It is possible 
that you had some bleeding in your stomach which started to heal 
before your endoscopy. Please continue to take omeprazole twice 
daily. Do not take medications from the class "NSAIDS"- 
including ibuprofen, Aleve, Motrin. 
If you develop recurrent bleeding, please call Dr. ___ 
___, call ___ at ___ and ask for the GI 
fellow on call or go to the nearest emergency department.
 
Followup Instructions:
___